US07745451B2
B. 5,6,7,8-Tetrahydro-6-(5-methylpyridin-2-yl)pyrido[4,3-d]pyrimidin-4(3H)-one
Into a 20 ml microwave tube was combined 5,6,7,8-Tetrahydro-3H-pyrido[4,3-d]pyrimidin-4-one (0.280 g, 0.00183 mol), 2-chloro-5-methylpyridine (0.47 g, 0.0037 mol), 1,4-dioxane (2.5 mL, 0.032 mol) N,N-diisopropylethylamine (0.64 mL, 0.0037 mol) and N,N-dimethylacetamide (0.5 mL, 0.005 mol). The mixture was heated via microwave at 150° C. for 4 hours. The mixture was reduced in vacuo and taken up in chloroform:IPA (3:1) (50 ml). The organic was washed with sodium bicarbonate and brine (1×50 ml), dried over sodium sulfate, and reduced in vacuo. The mixture was purified by flash chromatography on silica gel using a methylene chloride:methanol (0-10%) gradient. The combined pure fractions were reduced in vacuo to yield a bright yellow solid (0.215 g, 47.9%).

reactant | 5,6,7,8-Tetrahydro-3H-pyrido[4,3-d]pyrimidin-4-one | 0.00183 mol, 0.280 g | N1=CNC(C2=C1CCNC2)=O | C7H9N3O
reactant | 2-chloro-5-methylpyridine | 0.0037 mol, 0.47 g | ClC1=NC=C(C=C1)C | C6H6ClN
reactant | 1,4-dioxane | 0.032 mol, 2.5 mL | O1CCOCC1 | C4H8O2
reactant | N,N-dimethylacetamide | 0.005 mol, 0.5 mL | CN(C(C)=O)C | C4H9NO
solvent | chloroform IPA | 50 ml | C(Cl)(Cl)Cl.CC(C)O
product | 5,6,7,8-Tetrahydro-6-(5-methylpyridin-2-yl)pyrido[4,3-d]pyrimidin-4(3H)-one | 0.215 g, 47.9% | CC=1C=CC(=NC1)N1CC2=C(N=CNC2=O)CC1 | C13H14N4O
